US09238640B2
Preparation of 2-(3,5-Dimethyl-4-(2-(pyrrolidin-1-yl)ethoxy)phenyl)-5,7-dimethylquinazolin-4(3H)-one
To a solution of 2-amino-4,6-dimethyl-benzamide (0.20 g, 1.22 mmol) and 3,5-dimethyl-4-(2-pyrrolidin-1-yl-ethoxy)-benzaldehyde (0.36 g, 1.46 mmol) in N,N-dimethylacetamide (10 mL) was added NaHSO3 (58.5 wt %, 0.55 g, 3.05 mmol) and p-TSA (0.46 g, 2.44 mmol). The reaction mixture was heated to 110° C. for 2 hours, then cooled to room temperature. N,N-dimethylacetamide was removed under reduced pressure, the residue was diluted with sodium bicarbonate solution (50 mL), and the solid separated was filtered and dried under vacuum. The crude compound was purified by column chromatography (silica gel 230-400 mesh; 6% methanol in dichloromethane as eluent) to give the title compound as a white solid. Yield: 0.145 g (30%). MP 181-182° C. 1H NMR (400 MHz, DMSO-d6): δ 10.62 (s, 1H), 7.75 (s, 2H), 7.44 (s, 1H), 7.03 (s, 1H), 3.95 (t, J=6.0 Hz, 2H), 2.94 (t, J=6.0 Hz, 2H), 2.85 (s, 3H), 2.65 (s, 4H), 2.44 (s, 3H), 2.39 (s, 6H), 1.84 (s, 4H). MS (ES+) m/z: 392.13 (M+1).

reactant | 2-amino-4,6-dimethyl-benzamide | 1.22 mmol, 0.20 g | NC1=C(C(=O)N)C(=CC(=C1)C)C | C9H12N2O
reactant | 3,5-dimethyl-4-(2-pyrrolidin-1-yl-ethoxy)-benzaldehyde | 1.46 mmol, 0.36 g | CC=1C=C(C=O)C=C(C1OCCN1CCCC1)C | C15H21NO2
reactant | NaHSO3 | 3.05 mmol, 0.55 g | OS(=O)[O-].[Na+]
reactant | p-TSA | 2.44 mmol, 0.46 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | N,N-dimethylacetamide | 10 mL | CN(C(C)=O)C | C4H9NO
product | 2-(3,5-Dimethyl-4-(2-(pyrrolidin-1-yl)ethoxy)phenyl)-5,7-dimethylquinazolin-4(3H)-one | CC=1C=C(C=C(C1OCCN1CCCC1)C)C1=NC2=CC(=CC(=C2C(N1)=O)C)C | C24H29N3O2
